US08138189B2
Step 5: 4-{3-Chloro-4-[3,3,3-trifluoro-2-hydroxy-1-methyl-2-(2-methyl-pyridin-4-yl)-propyl]-phenoxy}-benzonitrile
A 2M solution of (trifluoromethyl)trimethylsilane in THF (0.23 ml) and a 0.1M solution of tetrabutylammonium fluoride trihydrate in THF (0.42 ml) were added to 4-{3-chloro-4-[1-methyl-2-(2-methyl-pyridin-4-yl)-2-oxo-ethyl]-phenoxy}-benzonitrile (80 mg) in THF (1 ml). The mixture was stirred for 1 h at room temperature and then concentrated to an oil. The residue was purified by flash chromatography (SiO2, EtOAc/heptane 1:1) to give the title compound (60 mg) as a light yellow solid. MS (m/e)=447.1 [M+H+].

reactant | (trifluoromethyl)trimethylsilane | FC(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | tetrabutylammonium fluoride trihydrate | O.O.O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 4-{3-chloro-4-[1-methyl-2-(2-methyl-pyridin-4-yl)-2-oxo-ethyl]-phenoxy}-benzonitrile | 80 mg | ClC=1C=C(OC2=CC=C(C#N)C=C2)C=CC1C(C(=O)C1=CC(=NC=C1)C)C | C22H17ClN2O2
solvent | THF | 0.23 ml | C1CCOC1 | C4H8O
solvent | THF | 0.42 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 4-{3-Chloro-4-[3,3,3-trifluoro-2-hydroxy-1-methyl-2-(2-methyl-pyridin-4-yl)-propyl]-phenoxy}-benzonitrile | 60 mg | ClC=1C=C(OC2=CC=C(C#N)C=C2)C=CC1C(C(C(F)(F)F)(C1=CC(=NC=C1)C)O)C | C23H18ClF3N2O2
